US07148362B2
A mixture of 2.355 mol of 4-aminophenol and 2.32 mol of itaconic acid was heated gradually: At 60° C., the powder started to become viscous, at 110–120° C. it became liquid and the colour turned to dark brown while the rest of solid material was also dissolved. The exothermic reaction started under boiling, and the temperature rose to 150° C. The sandy product was left to cool down to RT within 1–2 hours. The obtained crude (RS)-1-(4-hydroxyphenyl)-5-oxo-pyrrolidine-3-carboxylic acid was engaged in the next step without further purification or characterisation.

reactant | 4-aminophenol | 2.355 mol | NC1=CC=C(C=C1)O | C6H7NO
reactant | itaconic acid | 2.32 mol | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | (RS)-1-(4-hydroxyphenyl)-5-oxo-pyrrolidine-3-carboxylic acid | OC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C11H11NO4
